### PR TITLE
[Merged by Bors] - feat(Topology/UniformSpace): define the Hausdorff uniformity

### PR DESCRIPTION
**Pull request by gasparattila**
This PR defines the Hausdorff uniformity on `Closeds`, `Compacts` and `NonemptyCompacts`. Since `Closeds` and `NonemptyCompacts` already have metrics, they are changed to use the newly defined uniformity.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Rel.lean [hunk 1]
```diff
@@ -381,6 +387,12 @@ lemma subset_iterate_comp [R.IsRefl] {S : SetRel α β} : ∀ {n}, S ⊆ (R ○
   | 0 => .rfl
   | _n + 1 => right_subset_comp.trans subset_iterate_comp
 
+lemma self_subset_image [R.IsRefl] (s : Set α) : s ⊆ R.image s :=
```
Comment (j-loreaux) [inline Mathlib/Data/Rel.lean:394]:
```suggestion
lemma subset_image_self [R.IsRefl] (s : Set α) : s ⊆ R.image s :=
```

File: Mathlib/Data/Rel.lean [hunk 2]
```diff
@@ -381,6 +387,12 @@ lemma subset_iterate_comp [R.IsRefl] {S : SetRel α β} : ∀ {n}, S ⊆ (R ○
...
+  fun x hx => ⟨x, hx, R.rfl⟩
+
+lemma self_subset_preimage [R.IsRefl] (s : Set α) : s ⊆ R.preimage s :=
```
Comment (j-loreaux) [inline Mathlib/Data/Rel.lean:397]:
```suggestion
lemma subset_preimage_self [R.IsRefl] (s : Set α) : s ⊆ R.preimage s :=
```

File: Mathlib/Data/Rel.lean (hunk 1 above)
Comment (gasparattila) [reply Mathlib/Data/Rel.lean:394]: I'm not sure that this is a better name, since `self_subset_*` seems to be slightly more common for lemmas of this form. This convention is also used by `Metric.self_subset_thickening`, of which these lemmas are generalizations.

File: Mathlib/Topology/MetricSpace/Closeds.lean [hunk 3]
```diff
@@ -34,15 +34,62 @@ namespace EMetric
...
+    (h : hausdorffEdist s t < δ) : (s, t) ∈ hausdorffEntourage {p | edist p.1 p.2 < δ} := by
+  rw [hausdorffEdist, max_lt_iff] at h
+  rw [hausdorffEntourage, Set.mem_setOf]
+  conv => enter [2, 2, 1, 1, _]; rw [edist_comm]
+  have {s t : Set α} (h : ⨆ x ∈ s, infEdist x t < δ) :
+      s ⊆ SetRel.preimage {p | edist p.1 p.2 < δ} t := by
+    intro x hx
+    have := (le_iSup₂ x hx).trans_lt h
+    simp_rw [infEdist, iInf_lt_iff, exists_prop] at this
+    exact this
```
Comment (ocfnash) [inline Mathlib/Topology/MetricSpace/Closeds.lean]: Vanity golf:
```suggestion
    simpa only [infEdist, iInf_lt_iff, exists_prop] using (le_iSup₂ x hx).trans_lt h
```

File: Mathlib/Topology/MetricSpace/Closeds.lean [hunk 4]
```diff
@@ -34,15 +34,62 @@ namespace EMetric
...
+    (h : (s, t) ∈ hausdorffEntourage {p | edist p.1 p.2 ≤ δ}) : hausdorffEdist s t ≤ δ := by
+  rw [hausdorffEdist, max_le_iff]
+  rw [hausdorffEntourage, Set.mem_setOf] at h
+  conv at h => enter [2, 2, 1, 1, _]; rw [edist_comm]
+  have {s t : Set α} (h : s ⊆ SetRel.preimage {p | edist p.1 p.2 ≤ δ} t) :
+      ⨆ x ∈ s, infEdist x t ≤ δ := by
+    rw [iSup₂_le_iff]
+    intro x hx
+    obtain ⟨y, hy, hxy⟩ := h hx
+    refine iInf₂_le_of_le y hy hxy
```
Comment (ocfnash) [inline Mathlib/Topology/MetricSpace/Closeds.lean]:
```suggestion
    exact iInf₂_le_of_le y hy hxy
```

File: Mathlib/Data/Rel.lean (hunk 1 above)
Comment (ocfnash) [reply Mathlib/Data/Rel.lean:394]: Here and below, my first instinct would have been the same as Jireh's but I agree with your response.

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/Topology/UniformSpace/Closeds.lean [hunk 5]
```diff
@@ -0,0 +1,270 @@
...
+theorem monotone_hausdorffEntourage : Monotone (hausdorffEntourage (α := α)) :=
+  fun _ _ => hausdorffEntourage_mono
+
+instance isRefl_hausdorffEntourage (U : SetRel α α) [U.IsRefl] :
+    (hausdorffEntourage U).IsRefl :=
+  ⟨fun _ => ⟨U.self_subset_preimage _, U.self_subset_image _⟩⟩
+
+@[simp]
+theorem inv_hausdorffEntourage (U : SetRel α α) :
+    (hausdorffEntourage U).inv = hausdorffEntourage U.inv :=
```
Comment (gasparattila) [inline Mathlib/Topology/UniformSpace/Closeds.lean:53]: I've reversed this lemma, since this direction may allow further simplification of `U.inv`.
